US04112117
To a solution of 100 grams of 2 amino-4-chlorophenol (0.70 mole) in 1 liter of tetrahydrofuran is added 71 grams of triethylamine (0.70 mole). The resulting solution is cooled with an ice bath. To the solution is then slowly added 55 grams of acetyl chloride (0.70 mole) in 200 ml. of tetrahydrofuran. A precipitate forms (triethylamine hydrochloride). The solution is then filtered and the filtrate evaporated under reduced pressure, yielding a dark solid residue. Recrystallization of the residue from methylene chloride and petroleum ether (1:1) yields 4-chloro-2-acetamidophenol.

reactant | amino-4-chlorophenol | 0.70 mole | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | triethylamine | 0.70 mole, 71 grams | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.70 mole, 55 grams | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 4-chloro-2-acetamidophenol | ClC1=CC(=C(C=C1)O)NC(C)=O | C8H8ClNO2
